US04472586
Step A: 2-(o-Methoxyphenylthio)benzoic acid
Stir under reflux for 3 hours a mixture of 70 g (0.5 mole) of o-methoxythiophenol, 120.5 g (0.486 mole) of o-iodobenzoic acid, 81.7 g (1.46 mole) of potassium hydroxide, 85 g (1.34 mole) of copper powder and 800 ml of water. Filter the reaction mixture hot and again filter the filtrate through celite. Acidify the filtrate with concentrated hydrochloric acid. Separate the precipitate, wash well with water and dry in vacuo at 70° C. to obtain the title product. (m.p. 198°14 200° C.).

reactant | o-methoxythiophenol | 0.5 mole, 70 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | o-iodobenzoic acid | 0.486 mole, 120.5 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | potassium hydroxide | 1.46 mole, 81.7 g | [OH-].[K+]
catalyst | copper | 1.34 mole, 85 g | [Cu] | Cu
solvent | water | 800 ml | O | H2O
product | 2-(o-Methoxyphenylthio)benzoic acid | COC1=C(C=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
